US06509328B1
2,2-Dimethyl-6-pyridin-4-yl-[1,3]dioxin-4-one
Prepared from 3-oxo-3-pyridin-4-yl-propionic acid [prepared from 4-acetylpyridine, magnesium methylcarbonate and CO2 in DMF at 120° C. according to Journal of Antibiotics 1978, 31, 1245] by treatment with acetone, TFA and TFAA according to general procedure J (method b). Obtained as a white solid (1.3 g).

reactant | 3-oxo-3-pyridin-4-yl-propionic acid | O=C(CC(=O)O)C1=CC=NC=C1 | C8H7NO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFAA | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | acetone | CC(=O)C | C3H6O
product | 2,2-Dimethyl-6-pyridin-4-yl-[1,3]dioxin-4-one | 1.3 g | CC1(OC(=CC(O1)=O)C1=CC=NC=C1)C | C11H11NO3
